US04593102
3-(Phenylsulfonyl)pyrrolidine maleate
A solution of 16.77 g (0.0557 mole) of 1-(phenylmethyl)-3-(phenylsulfonyl)pyrrolidine (free base) and 12.0 g (0.076 mole) of phenyl chloroformate in 500 ml of methylene chloride was stirred at room temperature for 4 hr. The solvent was removed in vacuo to give an oil. The oil was dissolved in ether with a little methyl alcohol and methylene chloride added to clear the solution. An excess of triethylamine was added and the solution stirred for 1 hr. The mixture was filtered and the solvent removed in vacuo from the filtrate to give an oil. This oil was suspended in 300 ml of 48% hydrobromic acid and the mixture was refluxed for 14.5 hr. The reaction mixture was extracted with several portions of ether and the ether layers discarded. The solution was made basic with 50% aqueous sodium hydroxide and the basic solution was extracted with several portions of methylene chloride. The combined methylene chloride extract of the basic solution was dried over magnesium sulfate and the solvent removed in vacuo to give an oil, the free base of the title compound. The free base was converted to the maleate salt, crystallizing and recrystallizing from methyl alcohol-diethyl ether to give 10.53 g (57.8%) of crystalline solid, m.p. 146.5°-147.5° C.

reactant | 1-(phenylmethyl)-3-(phenylsulfonyl)pyrrolidine | 0.0557 mole, 16.77 g | C1(=CC=CC=C1)CN1CC(CC1)S(=O)(=O)C1=CC=CC=C1 | C17H19NO2S
reactant | phenyl chloroformate | 0.076 mole, 12.0 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methyl alcohol | CO | CH4O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | hydrobromic acid | 300 ml | Br | BrH
product | 3-(Phenylsulfonyl)pyrrolidine maleate | C(\C=C/C(=O)O)(=O)O.C1(=CC=CC=C1)S(=O)(=O)C1CNCC1 | InChI=1S/C10H13NO2S.C4H4O4/c12-14(13,10-6-7-11-8-10)9-4-2-1-3-5-9;5-3(6)1-2-4(7)8/h1-5,10-11H,6-8H2;1-2H,(H,5,6)(H,7,8)/b;2-1-
